US06900215B2
A stirred mixture of 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine (0.1073 g, 0.403 mmol) and 2-(2-fluoro-2′-(methanesulfonyl)biphenyl-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (228 mg, 0.607 mmol) in tetrahydrofuran (5 ml) and 2M aqueous sodium carbonate (containing 1 ml/l of 40 wt % tetrabutylammonium hydroxide in water) (0.605 ml, 1.21 mmol) was degassed by bubbling nitrogen through the mixture for 15 min. Tetrakis(triphenylphosphine)palladium(0) (24.6 mg, 0.0213 mmol) was then added and the mixture was heated at 65° C. under nitrogen for 6 h. After cooling, the mixture was partitioned between ethyl acetate (25 ml) and water (15 ml). The aqueous layer was extracted further with ethyl acetate (2×25 ml) and the combined organic extracts were dried over anhydrous sodium sulphate and evaporated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with isohexane on a gradient of ethyl acetate (40-50%), to afford 3-[2-fluoro-2′-(methanesulfonyl)biphenyl-5-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine as a yellow solid (139 mg, 79%): mp 211-213° C. (ethyl acetate/isohexane); δH (360 MHz, CDCl3) 2.89 (3H, s), 7.27 (1H, d, J 6.9), 7.40 (1H, td, J 1.2, 9.0), 7.46 (1H, dd, J 1.2, 7.4), 7.62-7.66 (2H, m), 7.68 (1H, td, J 1.6, 7.4), 7.74 (1H, td, J 1.6, 7.4), 8.10 (1H, s), 8.29 (1H, dd, J 1.4, 8.0), 9.22 (1H, d, J 7.0); MS (ES+) m/z 436 [M+H]+. Anal. Found: C, 55.02; H, 3.02; N, 9.23%. Required for C20H13F4N3O2S.0.1H2O: C, 54.94; H, 3.04; N, 9.61%.

reactant | 3-bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | 0.403 mmol, 0.1073 g | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 2-(2-fluoro-2′-(methanesulfonyl)biphenyl-5-yl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.607 mmol, 228 mg | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=C(C=CC=C1)S(=O)(=O)C | C19H22BFO4S
reactant | sodium carbonate | 1.21 mmol, 2M, 0.605 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0213 mmol, 24.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-[2-fluoro-2′-(methanesulfonyl)biphenyl-5-yl]-7-trifluoromethylimidazo[1,2-α]pyrimidine | 139 mg, 79% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)C2=C(C=CC=C2)S(=O)(=O)C | C20H13F4N3O2S
